US08440662B2
In one embodiment, intermediate [1C] is prepared according to Scheme 5A. In this route, 3-fluoro-4-nitro benzoic acid [Q1] is converted to corresponding amide [R1] using R7R8NH, EDCI.HCl, HOBt, TEA, and DMF at about rt for about 10 h. Amide [R1] is then reduced using SnCl2 in EtOH at reflux for about 3-4 h to provide benzamide [S1]. Benzamide [S1] is then converted to urea [T1] using 4-bromophenylisocyanate in the presence of TEA and DCM at about rt. Conversion of urea [T1] to intermediate [1C] is accomplished using Pd(dppf)Cl2.DCM, bis(pinacolato)diboron, KOAc, and 1,4-dioxane, at about 110° C. for about 10 h.

reactant | 3-fluoro-4-nitro benzoic acid | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | EDCI.HCl | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | SnCl2 | Cl[Sn]Cl
solvent | EtOH | CCO | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
